US04065553
XII. Preparation of 2,4,6-triiodo-3-β-aminopropionylaminobenzoic acid (Compound XII)
The same procedure is used as for Compound I, using 2,4,6-triiodo-3-amino-benzoic acid as iodo starting material and β-phthalimidopropionic acid chloride.

reactant | 2,4,6-triiodo-3-amino-benzoic acid | IC1=C(C(=O)O)C(=CC(=C1N)I)I | C7H4I3NO2
reactant | β-phthalimidopropionic acid chloride | C1(C=2C(C(N1CCC(=O)Cl)=O)=CC=CC2)=O | C11H8ClNO3
product | 2,4,6-triiodo-3-β-aminopropionylaminobenzoic acid | IC1=C(C(=O)O)C(=CC(=C1NC(CCN)=O)I)I | C10H9I3N2O3
